US08975265B2
tert-butyl (1-{4-[3-phenyl-6-(1H-pyrazol-1-yl)imidazo[1,2-a]pyridin-2-yl]phenyl}cyclobutyl)carbamate
A mixture of tert-butyl {1-[4-(6-bromo-3-phenylimidazo[1,2-a]pyridin-2-yl)phenyl]cyclobutyl}carbamate (see Int 4-18, 230 mg, 0.443 mmol), copper(I) iodide (12.6 mg, 0.07 mmol), 1H-pyrazole (36.5 mg, 0.537 mmol), potassium carbonate (36.5 mg, 0.537 mmol) and quinolin-8-ol (9.73 mg, 0.007 mmol) in 0.6 ml DMSO was heated to 150° C. for 7 h under argon atmosphere. The mixture was triturated with 10% ammonium hydroxide solution and charcoal. After filtration through Celite the filter pad was washed with ethyl acetate. The combined solutions were washed with brine and filtered through a silicone filter. The volatile compounds were removed in vacuo. The crude material was purified by reverse phase HPLC chromatography (Chromatorex RP C-18 10_m; 125*30 mm, acetonitrile/water 30/70->acetonitrile/water 100/0) to give 20 mg of the title compound (9 (Y0 overall yield).

reactant | tert-butyl {1-[4-(6-bromo-3-phenylimidazo[1,2-a]pyridin-2-yl)phenyl]cyclobutyl}carbamate | 0.443 mmol, 230 mg | BrC=1C=CC=2N(C1)C(=C(N2)C2=CC=C(C=C2)C2(CCC2)NC(OC(C)(C)C)=O)C2=CC=CC=C2 | C28H28BrN3O2
reactant | 1H-pyrazole | 0.537 mmol, 36.5 mg | N1N=CC=C1 | C3H4N2
reactant | potassium carbonate | 0.537 mmol, 36.5 mg | C([O-])([O-])=O.[K+].[K+]
reactant | quinolin-8-ol | 0.007 mmol, 9.73 mg | N1=CC=CC2=CC=CC(=C12)O | C9H7NO
solvent | DMSO | 0.6 ml | CS(=O)C | C2H6OS
catalyst | copper(I) iodide | 0.07 mmol, 12.6 mg | [Cu]I
product | tert-butyl (1-{4-[3-phenyl-6-(1H-pyrazol-1-yl)imidazo[1,2-a]pyridin-2-yl]phenyl}cyclobutyl)carbamate | 20 mg | C1(=CC=CC=C1)C1=C(N=C2N1C=C(C=C2)N2N=CC=C2)C2=CC=C(C=C2)C2(CCC2)NC(OC(C)(C)C)=O | C31H31N5O2
